US09102625B2
To a solution of 6-chloro-4-(3-iodobenzylamino)nicotinamide (200 mg, 0.50 mmol) in Dioxane (2 mL) was added pyridine-4-boronic acid (92 mg, 0.75 mmol) and Pd(PPh3)2Cl2 (56 mg, 0.08 mmol), followed by a solution of Na2CO3 (173 mg, 1.63 mmol) in H2O (1 mL). After stirring at 100° C. for 2 h, it was concentrated and purified by preparative HPLC to give 6-chloro-4-(3-(pyridine-4-yl)benzylamino)nicotinamide (56 mg).

reactant | 6-chloro-4-(3-iodobenzylamino)nicotinamide | 0.50 mmol, 200 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)I | C13H11ClIN3O
reactant | pyridine-4-boronic acid | 0.75 mmol, 92 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 1.63 mmol, 173 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.08 mmol, 56 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-chloro-4-(3-(pyridine-4-yl)benzylamino)nicotinamide | 56 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)C1=CC=NC=C1 | C18H15ClN4O
